US07427683B2
c) 5-Cyano-furan-2-carboxylic acid (4-ethoxy-2-piperidin-1-yl-phenyl)-amide
Using a procedure similar to Example 3, step (d), 4-ethoxy-2-piperidin-1-yl-phenylamine (64 mg, 0.29 mmol, as prepared in the previous step) was allowed to react with 5-cyano-furan-2-carbonyl chloride (66.6 mg, 0.430 mmol) in the presence of DIEA (111 μL, 0.63 mmol) to afford 53 mg (54%) of the title compound as a light yellow solid. 1H-NMR (CDCl3, 400 MHz): δ 9.49 (br s, 1H), 8.32 (d, 1H, J=8.9 Hz), 7.25 (d, 1H, J=2.7 Hz), 7.22 (d, 1H, J=2.8 Hz), 6.77 (d, 1H, J=2.8 Hz), 6.67 (dd, 1H, J=2.8, 8.9 Hz), 2.82 (m, 4H), 4.02 (q, 2H, J=7.0 Hz), 2.82 (m, 4H), 1.80-1.82 (m, 4H), 1.64 (br s, 2H), 1.41 (t, 3H, J=7.0 Hz); Mass spectrum (ESI, m/z): Calcd. for C19H21N3O3, 340.1 (M+H), found 340.1.

reactant | 4-ethoxy-2-piperidin-1-yl-phenylamine | C(C)OC1=CC(=C(C=C1)N)N1CCCCC1 | C13H20N2O
reactant | 5-cyano-furan-2-carbonyl chloride | 0.430 mmol, 66.6 mg | C(#N)C1=CC=C(O1)C(=O)Cl | C6H2ClNO2
reactant | DIEA | 0.63 mmol, 111 μL | CCN(C(C)C)C(C)C | C8H19N
product | 5-Cyano-furan-2-carboxylic acid (4-ethoxy-2-piperidin-1-yl-phenyl)-amide | 53 mg, 54% | C(C)OC1=CC(=C(C=C1)NC(=O)C=1OC(=CC1)C#N)N1CCCCC1 | C19H21N3O3
